US09428495B2
Preparation of ER-887199: To a stirred solution of (2R,6R)-2-((benzyloxy)methyl)-6-ethylmorpholine (552.2 mg, 2.347 mmol) in MeOH (10 mL) was cycled over 10% Pd(OH)2 column with H2 gas at 1 atmosphere over 16 h using a H-Qube hydrogenation instrument. The completed reaction solution was concentrated and dried in vacuo to provide crude product, ((2R,6R)-6-ethylmorpholin-2-yl)methanol (320 mg, 2.204 mmol, 93.9% yield) that was used in the next step without further purification.

reactant | (2R,6R)-2-((benzyloxy)methyl)-6-ethylmorpholine | 2.347 mmol, 552.2 mg | C(C1=CC=CC=C1)OC[C@H]1CNC[C@H](O1)CC | C14H21NO2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | ((2R,6R)-6-ethylmorpholin-2-yl)methanol | 2.204 mmol, 320 mg, 93.9% yield | C(C)[C@H]1O[C@H](CNC1)CO | C7H15NO2
